US05439917
An autoclave was charged with 5-bromo-2,3-dimethyl-pyrrolo[2,3-b]pyridine (prepared in a similar manner as 6-bromo-2,3-dimethyl-pyrrolo[2,3-b]pyridine (247 mg, 1.1 mmol) and CuCN (135 mg. 1.5 mmol). The mixture was covered with pyridine and heated to 220° C. for 12 h. After cooling the raction mixture was poured into a mixture of FeCl3 hexahydrate (0.9 g), conc HCl (0.5 ml), and water (10 ml). The mixture was heated to 80° C. for 1 h and extracted with CH2Cl2. The organic layer was washed four times with 2M HCl, dried over MgSO4 and evaporated leaving 77 mg (40%) 5-cyano-2,3-dimethyl-pyrrolo[2,3-b]pyridine.

reactant | 5-bromo-2,3-dimethyl-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC(=C2C)C | C9H9BrN2
reactant | 6-bromo-2,3-dimethyl-pyrrolo[2,3-b]pyridine | 1.1 mmol, 247 mg | BrC1=CC=C2C(=N1)NC(=C2C)C | C9H9BrN2
reactant | CuCN | 1.5 mmol, 135 mg | C(#N)[Cu]
reactant | HCl | 0.5 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-cyano-2,3-dimethyl-pyrrolo[2,3-b]pyridine | 77 mg, 40% | C(#N)C=1C=C2C(=NC1)NC(=C2C)C | C10H9N3
